US07586117B2
Into a reaction vessel purged with nitrogen, 1-nitropropane (8.93 ml, 100 mmol) and dehydrated tetrahydrofuran (dry THF) (50 ml) were added. After 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (1.5 ml, 10 mmol) was added, propionaldehyde (4.68 ml, 100 mmol) was added while cooling in an ice bath. After stirring for 10 hours at room temperature, ethyl acetate (100 ml) was added. The resulting solution was washed using dilute hydrochloric acid, water and saturated saline, and the obtained organic layer was dried over anhydrous sodium sulfate. The resulting solution was concentrated under reduced pressure to give 4-hydroxy-3-nitrohexane (12.33 g, yield 84%)

reactant | 1-nitropropane | 100 mmol, 8.93 ml | [N+](=O)([O-])CCC | C3H7NO2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 10 mmol, 1.5 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | propionaldehyde | 100 mmol, 4.68 ml | C(CC)=O | C3H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-hydroxy-3-nitrohexane | 12.33 g, yield 84% | OC(C(CC)[N+](=O)[O-])CC | C6H13NO3
